US08497288B2
e) (6R,7aS)-6-Hydroxy-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one
Tetrabutyl ammonium fluoride (1.0 g, 3.8 mmol) was added to a solution of (6R,7aS)-6-(tert-Butyl-diphenyl-silanyloxy)-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one (1.8 g, 3.3 mmol) in anhydrous THF (20 mL). The mixture was stirred for 2 hours at room temperature. The mixture was poured into water (50 mL), extracted with ethyl acetate (3×50 mL). The organic layers was combined, washed with brine (50 mL), dried over anhydrous sodium sulphate, filtered and concentrated. The residue was purified by silica gel column chromatography (MeOH/CH2Cl2=1:20) to give 0.95 g (94%) of the title compound.

reactant | Tetrabutyl ammonium fluoride | 3.8 mmol, 1.0 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (6R,7aS)-6-(tert-Butyl-diphenyl-silanyloxy)-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 3.3 mmol, 1.8 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@H]2N(C(N(C2)C2=CC=C(C=C2)OC(F)(F)F)=O)C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31F3N2O3Si
reactant | water | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (6R,7aS)-6-Hydroxy-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 0.95 g, 94% | O[C@@H]1C[C@@H]2N(C(N(C2)C2=CC=C(C=C2)OC(F)(F)F)=O)C1 | C13H13F3N2O3
